US07838674B2
b) 7,9-Dioxo-6-aza-spiro[3.5]nonane-8-carboxylic acid methyl ester
1-[(2-Methoxycarbonyl-acetylamino)-methyl]-cyclobutanecarboxylic acid ethyl ester (1.62 g, 6.3 mmol) dissolved in 15 ml toluene is added dropwise to a freshly prepared solution of sodium (0.15 g, 6.5 mmol) in methanol (20 ml). The reaction mixture is refluxed for 3 hours and then extracted 3 times with water. The aqueous phase is acidified using HClconc. and the now acidic solution is extracted with ethyl acetate. Drying and evaporation of the solvent delivered the crude product which is used in the next step without further purification.

reactant | 1-[(2-Methoxycarbonyl-acetylamino)-methyl]-cyclobutanecarboxylic acid ethyl ester | 6.3 mmol, 1.62 g | C(C)OC(=O)C1(CCC1)CNC(CC(=O)OC)=O | C12H19NO5
reactant | sodium | 6.5 mmol, 0.15 g | [Na] | Na
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 20 ml | CO | CH4O
product | 7,9-Dioxo-6-aza-spiro[3.5]nonane-8-carboxylic acid methyl ester | COC(=O)C1C(NCC2(CCC2)C1=O)=O | C10H13NO4
